US07989472B2
Step A: 1-(6-Methoxypyridin-3-yl)-4-(trifluoromethyl)cyclohexanol
n-Butyllithium (3 mL of a 2.5 M solution in hexanes, 7.5 mmol) was added dropwise to 5-bromo-2-methoxy pyridine (6.0 mmol, 0.78 mL) in 40 mL of THF cooled in a dry ice/acetone bath. After aging for 15 min, 4-trifluoromethylcyclohexanone (6.0 mmol, 1 g) was added and the reaction mixture was allowed to slowly warm to 0° C. over 2 h. The reaction was cooled in a dry ice/acetone bath and the reaction was quenched by addition of sat. ammonium chloride (aq), then saturated sodium bicarbonate (aq). The reaction mixture was extracted with hexanes/EtOAc. The organic phase was concentrated and the resultant residue was purified by flash chromatography on silica gel using a step gradient of 4:1, 2:1 and 1:1 (v/v) EtOAc/hexanes to give the title compound as a mixture of isomers. LC-MS (ESI): m/z=276.2 [M+1]+.

reactant | n-Butyllithium | C(CCC)[Li]
reactant | 5-bromo-2-methoxy pyridine | 6.0 mmol, 0.78 mL | BrC=1C=CC(=NC1)OC | C6H6BrNO
reactant | 4-trifluoromethylcyclohexanone | 6.0 mmol, 1 g | FC(C1CCC(CC1)=O)(F)F | C7H9F3O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 1-(6-Methoxypyridin-3-yl)-4-(trifluoromethyl)cyclohexanol | COC1=CC=C(C=N1)C1(CCC(CC1)C(F)(F)F)O | C13H16F3NO2
